US08420640B2
A suspension of (4-(3-amino-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (2.0 g, 9.0 mmol), 5 ml acetic acid and palladium on carbon (100 mg, 5%) in 50 ml ethanol was stirred at room temperature under hydrogen atmosphere overnight. The mixture was filtered with the aid of celite. Crude (4-(3,4-diaminophenyl)piperazin-1-yl)(phenyl)methanone (1.2 g, 41%) was obtained after removing of solvents. A suspension of (4-(3,4-diaminophenyl)piperazin-1-yl)(phenyl)methanone (0.2 g, 0.67 mmol), acetic acid (0.23 ml, 4.0 mmol) and 40% oxalaldehyde (0.14 ml, 1.0 mmol) in 40 ml acetonitrile was stirred at 50° C. under argon atmosphere overnight. The reaction was quenched with the 5 ml water and extracted with ethyl acetate (3×40 ml). The extraction was concentrated after drying over anhydrous sodium sulfate. Phenyl(4-(quinoxalin-6-yl)piperazin-1-yl)methanone (0.060 g, 28%) was obtained by flash column chromatograph (10% acetone in ethyl acetate). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.37 (d, br, 4H), 3.69 (s, br, 2H), 4.01 (s, br, 2H), 7.30 (d, J=2.7 Hz, 1H), 7.48 (m, 5H), 7.50 (dd, J=9.3, 2.7 Hz, 1H), 7.56 (d, J=9.3 Hz, 1H), 8.65 (d, J=1.9 Hz, 1H), 8.73 (d, J=1.9 Hz, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 49.1, 49.3, 110.8, 123.0, 127.6, 29.0, 130.4, 130.5, 1135.7, 139.0, 142.6, 144.9, 151.9, 145.6, 170.9.

reactant | (4-(3,4-diaminophenyl)piperazin-1-yl)(phenyl)methanone | 0.67 mmol, 0.2 g | NC=1C=C(C=CC1N)N1CCN(CC1)C(=O)C1=CC=CC=C1 | C17H20N4O
reactant | acetic acid | 4.0 mmol, 0.23 ml | C(C)(=O)O | C2H4O2
reactant | oxalaldehyde | 1.0 mmol, 0.14 ml | C(C=O)=O | C2H2O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | Phenyl(4-(quinoxalin-6-yl)piperazin-1-yl)methanone | 0.060 g, 28% | C1(=CC=CC=C1)C(=O)N1CCN(CC1)C=1C=C2N=CC=NC2=CC1 | C19H18N4O
